US07411072B2
5-(2-Fluoro-5-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 28 and using 2-fluoro-5-methoxybenzaldehyde (1.59 g, 10.3 mmol) and dibenzosuberane (1.94 g, 10 mmol), provides 210 mg of title compound as white crystals. mp 110.7° C. (hexane). HPLC shows 99% purity.

reactant | 2-fluoro-5-methoxybenzaldehyde | 10.3 mmol, 1.59 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | dibenzosuberane | 10 mmol, 1.94 g | C1CC2=CC=CC=C2CC3=CC=CC=C31 | C15H14
product | 5-(2-Fluoro-5-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 210 mg | FC1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=C(C=C1)OC | C23H19FO
